US08669255B2
tert-butyl (7R,8aS)-7-{[5-(prop-1-en-2-yl)pyrazin-2-yl]oxy}hexahydro-pyrrolo[1,2-a]pyrazine-2(1H)-carboxylate
To a solution of the product from Example 152A (0.88 g, 3.63 mmol)) in anhydrous tetrahydrofuran (20 mL) was added a 1.0 M solution of potassium tert-butoxide in tetrahydrofuran (4.36 mL, 4.36 mmol). The resulting mixture was stirred at room temperature for 20 minutes, and then 2-bromo-5-(prop-1-en-2-yl)pyrazine (0.867 g, 4.36 mmol) was added. The resulting dark mixture was stirred at room temperature for 16 hours, and the mixture was then poured into water (50 mL) and extracted with ethyl acetate (3×50 mL). The combined organic layers were dried over Na2SO4. The drying agent was removed by filtration, and the crude product was purified by column chromatography on silica gel using a solvent gradient of 0-60% ethyl acetate in hexanes. The title compound was obtained as a light tan oil that crystallized on standing (0.67 g, 51.2%).

reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | 2-bromo-5-(prop-1-en-2-yl)pyrazine | 4.36 mmol, 0.867 g | BrC1=NC=C(N=C1)C(=C)C | C7H7BrN2
reactant | water | 50 mL | O | H2O
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 4.36 mmol, 4.36 mL | O1CCCC1 | C4H8O
product | tert-butyl (7R,8aS)-7-{[5-(prop-1-en-2-yl)pyrazin-2-yl]oxy}hexahydro-pyrrolo[1,2-a]pyrazine-2(1H)-carboxylate | C=C(C)C=1N=CC(=NC1)O[C@@H]1C[C@@H]2N(CCN(C2)C(=O)OC(C)(C)C)C1 | C19H28N4O3
